US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 70 mg, 0.162 mmol) was dissolved in DMF (2 mL) prior to the addition of 4-methylmorpholine (0.107 mL, 0.974 mmol), tert-butyl 3-aminopropanoate-HCl (53.1 mg, 0.292 mmol), and HATU (111 mg, 0.292 mmol). This was stirred overnight before EtOAc and brine were added. The organic layer was washed with brine, 1N HCl, and saturated NaHCO3. The organic layer was then dried (MgSO4), filtered, and concentrated to give tert-butyl 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoate (85 mg, 0.152 mmol, 94% yield): LCMS=559.3 [M+H]+, which was taken to the next step. This material, tert-butyl 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoate (160 mg, 0.286 mmol), was dissolved in CH2Cl2 (1 mL) and TFA (2.0 mL). This was stirred for 1 h and was then concentrated to give single enantiomer 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid (147 mg, 0.293 mmol): LCMS=503.0 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, d, J=8.35 Hz), 7.69 (4 H, d, J=7.91 Hz), 7.52-7.65 (3 H, m), 5.11 (1 H, s), 3.50 (2 H, t, J=6.59 Hz), 2.54 (2 H, t, J=6.81 Hz).

reactant | tert-butyl 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoate | 0.286 mmol, 160 mg | OC(C(=O)NCCC(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C27H25F3N4O6
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid | 0.293 mmol, 147 mg | OC(C(=O)NCCC(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C23H17F3N4O6
